US06326369B1
8-(2-Hydroxymethyl-4,5,6,7-tetramethoxyindan-2-yl)octanol
Lithium aluminium hydride (72.1 mg, 1.90 mmols) was added to a diethyl ether (6.0 ml) solution of ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate (315 mg, 0.634 mmols), with cooling with ice. The reaction mixture was warmed to room temperature, and then stirred for 1 hour. 1N hydrochloric acid was added to the reaction mixture with cooling with ice, which was then extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and then dried. The solvent was evaporated out, and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=4:1 to 1:1) to obtain the entitled compound (239 mg) as an oil.

reactant | Lithium aluminium hydride | 1.90 mmols, 72.1 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 8-(2-ethoxycarbonyl-4,5,6,7-tetramethoxyindan-2-yl)octanoate | 0.634 mmols, 315 mg | C(C)OC(=O)C1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCC(=O)OCC | C26H40O8
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | diethyl ether | 6.0 ml | C(C)OCC | C4H10O
product | 8-(2-Hydroxymethyl-4,5,6,7-tetramethoxyindan-2-yl)octanol | 239 mg | OCC1(CC2=C(C(=C(C(=C2C1)OC)OC)OC)OC)CCCCCCCCO | C22H36O6
